US04866184
A mixture of 200 mg (0.41 mmol) of 4,4'-thiobis(N-phenyl-1,2,3,6-tetrahydrophthalimide) and 53 mg (1.7 mmol) of elemental sulfur was heated to 240°-260° C. (sand bath) for 20 minutes and cooled to room temperature. The resulting brown residue was purified by preparative TLC on silica gel (eluent: 1% methanol in dichloromethane) to give 61 mg (31% yield) of 4,4'-thiobis(N-phenylphthalimide) as a yellow solid. Trituration with dichloromethane afforded a white solid: mp 275°-280° C.; (lit 293°-295° C.--see U.S. Pat. No. 3,989,712); IR (KBr) 3065, 1710,1375 cm-1 ; 1H NMR (slurry in DMSO-d6) 7.52 (m,5H), 7.97 (m, 3H).

reactant | 4,4'-thiobis(N-phenyl-1,2,3,6-tetrahydrophthalimide) | 0.41 mmol, 200 mg | S(C=1CC2C(C(=O)N(C2=O)C2=CC=CC=C2)CC1)C=1CC2C(C(=O)N(C2=O)C2=CC=CC=C2)CC1 | C28H24N2O4S
reactant | sulfur | 1.7 mmol, 53 mg | [S] | S
product | 4,4'-thiobis(N-phenylphthalimide) | 61 mg, 31% yield | S(C=1C=C2C(C(=O)N(C2=O)C2=CC=CC=C2)=CC1)C=1C=C2C(C(=O)N(C2=O)C2=CC=CC=C2)=CC1 | C28H16N2O4S
